US08669234B2
2-{5-[7-(2-Bromo-acetyl)-9,10-dihydro-phenanthren-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester.
Pd(Ph3)4 (15 mg, 0.015 mmol) and PdCl2(Ph3)2 (10 mg, 0.015 mmol) were added to a mixture 2-[5-(7-bromo-9,10-dihydro-phenanthren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (180 mg, 0.37 mmol) and tributyl(1-ethoxyvinyl)tin (0.15 mL, 0.44 mL) in 5 mL dioxane. The reaction mixture was flushed with nitrogen, heated at 80° C. for 16 hours, then cooled to ambient temperature. Water (1.5 mL) and NBS (78 mg, 0.44 mmol) was added and the mixture was stirred at room temperature for 40 minutes, then diluted with ethyl acetate (100 mL). Washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was carried on to next step reaction without purification.

reactant | 2-[5-(7-bromo-9,10-dihydro-phenanthren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.37 mmol, 180 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CCC3=CC(=CC=C3C2C=C1)Br | C26H28BrN3O2
reactant | tributyl(1-ethoxyvinyl)tin | 0.15 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | Water | 1.5 mL | O | H2O
reactant | NBS | 0.44 mmol, 78 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-{5-[7-(2-Bromo-acetyl)-9,10-dihydro-phenanthren-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CCC3=CC(=CC=C3C2C=C1)C(CBr)=O | C28H30BrN3O3
